US08420849B2
2-(3-Chlorophenyl)-3-hydroxy-4-methylcarbonyl thiophene
A chloroform (25 mL) solution of 2-(3-chlorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene (2.49 g, 8.02 mmol, purity: 82%) was cooled to −43° C., and to this solution, a chloroform (50 mL) solution of sulfuryl chloride (0.77 mL, 1.1 equivalent amounts) was dropwise added over a period of 32 minutes, followed by stirring at −15° C. for 1 hour. The temperature of the solution was raised to 0° C., and water (5 mL) was dropwise added, followed by liquid separation. The obtained chloroform solution was sequentially washed with water, a saturated salt solution, a sodium hydroxide aqueous solution, a saturated sodium thiosulfate aqueous solution and a saturated salt solution, and dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was distilled off to give the desired product as a yellow solid (2.0 g, yield: 99%).

reactant | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
reactant | 2-(3-chlorophenyl)-3-hydroxy-4-methylcarbonyl-2,5-dihydrothiophene | 8.02 mmol, 2.49 g | ClC=1C=C(C=CC1)C1SCC(=C1O)C(=O)C | C12H11ClO2S
reactant | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
reactant | sulfuryl chloride | 0.77 mL, 1.1 equivalent | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | water | 5 mL | O | H2O
product | 2-(3-Chlorophenyl)-3-hydroxy-4-methylcarbonyl thiophene | 2.0 g, yield: 99% | ClC=1C=C(C=CC1)C=1SC=C(C1O)C(=O)C | C12H9ClO2S
